US05498777
A solution of 6-ethoxycarbonyl-2-mercaptobenzothiazole (1.14 g, 4.64 mmol) in anhydrous tetrahydrofuran (14 mL) was heated to reflux under a nitrogen atmosphere and stirred while 1M lithium aluminum hydride in tetrahydrofuran (4.7 mL) was added dropwise. The resulting mixture was stirred and heated at reflux for one hour, then cooled in an ice bath and cautiously treated with 2N hydrochloric acid. The mixture was diluted with water (20 mL) and extracted with ethyl acetate (3×25 mL). The combined extracts were washed with brine (25 mL), dried over sodium sulfate, filtered and evaporated under vacuum to provide 6-hydroxymethyl-2-mercaptobenzothiazole (0.89 g) as a pale yellow solid.

reactant | 6-ethoxycarbonyl-2-mercaptobenzothiazole | 4.64 mmol, 1.14 g | C(C)OC(=O)C1=CC2=C(N=C(S2)S)C=C1 | C10H9NO2S2
reactant | lithium aluminum hydride | 1M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 14 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4.7 mL | O1CCCC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | 6-hydroxymethyl-2-mercaptobenzothiazole | 0.89 g | OCC1=CC2=C(N=C(S2)S)C=C1 | C8H7NOS2
